US06548493B1
tert-butyl (6aS,10aR)-2-[4-isopropoxy-2-(trifluoromethyl)phenyl]-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and 4-isopropoxy-2-(trifluoromethyl)phenylboronic acid (248 mg, 1.0 mmol) to afford after chromatographic purification the title compound (186 mg, 74%). 1H NMR (CDCl3, 300 MHz) δ7.11-7.18 (m,2H), 6.90-6.94 (m, 1H), 6.78 (s, 1H), 6.74 (s, 1H), 4.50-4.54 (m, 1H), 3.75-3.85 (m, 1H), 3.59-3.70 (m, 1H), 2.79-3.40 (m, 8H), 1.74-1.84 (m, 2H), 1.40 (m, 9H) 1.21 (d, 6H, J=5.9 Hz) ppm. MS-ApCI: 503 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 4-isopropoxy-2-(trifluoromethyl)phenylboronic acid | 1.0 mmol, 248 mg | C(C)(C)OC1=CC(=C(C=C1)B(O)O)C(F)(F)F | C10H12BF3O3
product | tert-butyl (6aS,10aR)-2-[4-isopropoxy-2-(trifluoromethyl)phenyl]-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | C(C)(C)OC1=CC(=C(C=C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C)C(F)(F)F | C28H33F3N2O3
